US06949571B2
5-Bromo-3-iodo-1,2-dihydropyridin-2-one
2-Amino-5-bromopyridine (CAS No. 1072-97-5) (300 g) was dissolved in a mixed solvent consisting of 1000 ml of acetic acid and 200 ml of water, 30 ml of concentrated sulfuric acid were gradually dropped thereinto under stirring. Then, 79.1 g of periodic acid hydrate and 176 g of iodine were added thereto, followed by stirring at 80° C. for 4 hours. To the reaction mixture were added periodic acid hydrate (40 g) and iodine (22 g), followed by further stirring at 80° C. for 2 hours. After cooling to room temperature, the reaction mixture was poured onto ice (3000 ml) and neutralized to pH 7.0 with 5N aqueous sodium hydroxide. The resulting crystals were collected by filtration, dissolved in a mixed solvent of ethyl acetate/diethyl ether, successively washed with aqueous sodium thiosulfate, water, 1N aqueous sodium hydroxide and brine, and dried over anhydrous magnesium sulfate. Then, the solvent was evaporated, to give 392 g of 2-amino-5-bromo-3-iodopyridine (yield: 76%). 2-Amino-5-bromo-3-iodopyridine (100 g) was gradually added to 300 ml of concentrated sulfuric acid under ice-cooling. After the reaction mixture was stirred at room temperature for 2 hours, it was ice-cooled again. 35 g of sodium nitrite were gradually added thereto, followed by stirring at room temperature for 3 days and nights. The reaction solution was poured onto ice (3000 ml) and neutralized to pH 4.0 with sodium hydroxide. The resulting crystals were collected by filtration, washed with water and warm air-dried at 60° C. for one day and night, to give 102 g (quantitative) of the title compound.

reactant | 2-Amino-5-bromo-3-iodopyridine | 100 g | NC1=NC=C(C=C1I)Br | C5H4BrIN2
reactant | sodium nitrite | 35 g | N(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulfuric acid | 300 ml | S(O)(O)(=O)=O | H2O4S
product | 5-Bromo-3-iodo-1,2-dihydropyridin-2-one | BrC=1C=C(C(NC1)=O)I | C5H3BrINO
